US08835659B2
Preparation of 3-(4,6-dimethoxy-1-benzofuran-2-yl)-2,6-dimethoxypyridine, with the Following Structural Formula
This compound was prepared using Method A from 3,5-dimethoxyphenol and 2-bromo-1-(2,6-dimethoxypyridin-3-yl)ethanone: Yield 53% following procedure A.2; m.p. 155-156° C.; IR 2937, 2961, 1605, 1504, 1475, 1460, 1272, 1107, 1011 cm−1; 1H-NMR (500 MHz, δ ppm, CDCl3) 8.12 (d, J=8.2 Hz, 1H), 7.18 (s, 1H), 6.66 (s, 1H), 6.41 (d, J=8.2 Hz, 1H), 6.32 (s, 1H), 4.10 (s, 3H), 3.96 (s, 3H), 3.93 (s, 3H), 3.85 (s, 3H); 13C-NMR (126 MHz, δ ppm, CDCl3) 161.9, 159.1, 158.7, 155.9, 153.7, 149.7, 137.4, 113.9, 106.7, 101.7, 101.5, 94.3, 88.4, 55.9, 55.8, 53.8, 53.7.

reactant | 3,5-dimethoxyphenol | COC=1C=C(C=C(C1)OC)O | C8H10O3
reactant | 2-bromo-1-(2,6-dimethoxypyridin-3-yl)ethanone | BrCC(=O)C=1C(=NC(=CC1)OC)OC | C9H10BrNO3
product | 3-(4,6-dimethoxy-1-benzofuran-2-yl)-2,6-dimethoxypyridine | Yield 53% | COC1=CC(=CC2=C1C=C(O2)C=2C(=NC(=CC2)OC)OC)OC | C17H17NO5
